US08912188B2
To a solution of methyl 2-(1H-indazol-6-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate (195.0 mg, 0.52 mmol) in tetrahydrofuran (20 mL) was added LiOH.H2O (25.0 mg, 1.04 mmol) and water (1 mL). After stirring overnight at room temperature, the reaction mixture was concentrated under reduced pressure to afford a residue, which was dissolved in water (30 mL) and adjusted to pH 6 with hydrochloric acid (3N) and filtered to give 2-(1H-indazol-6-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylic acid as a light yellow solid (121.5 mg, 65%).

reactant | methyl 2-(1H-indazol-6-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate | 0.52 mmol, 195.0 mg | N1N=CC2=CC=C(C=C12)C1=NC2=CC=C(C=C2N=C1N(C)C(C)C)C(=O)OC | C21H21N5O2
reactant | LiOH.H2O | 1.04 mmol, 25.0 mg | O[Li].O
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | 30 mL | O | H2O
solvent | water | 1 mL | O | H2O
product | 2-(1H-indazol-6-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylic acid | 121.5 mg, 65% | N1N=CC2=CC=C(C=C12)C1=NC2=CC=C(C=C2N=C1N(C)C(C)C)C(=O)O | C20H19N5O2
